US04408009
A sample of 90% hydrolyzed ethyl silicate/methyltriethoxy silane co-condensate was prepared by adding water (11 grams) containing a trace of sulfuric acid to a solution of tetraethyl orthosilicate (37.5 grams) and methyl triethoxy silane (37.5 grams) in anhydrous ethanol (75 grams). Ethocel (4.5 grams) was added to thicken the solution. To a portion (11.5 grams) of the solution was added a 60% total solids TiO2 dispersion in isopropanol (40.3 grams) and a dispersing aid, Nuosperse 657 (3.5 grams). A 2 mil dry coating was prepared on a three by six inch steel Q panel and conditioned for 15 minutes at 200° C. The coated panel was then placed in a muffle furnace at 510° C. and its condition checked after 1, 2, 3, and 4 hours. At all times, the coating remained white, uncracked and adhered to the substrate. In comparison with the results contained in Control B and Examples 1-9, this demonstrates the usefulness of the highly filled co-condensate in this elevated temperature application.

reactant | water | 11 grams | O | H2O
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | tetraethyl orthosilicate | 37.5 grams | [Si](OCC)(OCC)(OCC)OCC | C8H20O4Si
reactant | methyl triethoxy silane | 37.5 grams | C[Si](OCC)(OCC)OCC | C7H18O3Si
solvent | ethanol | 75 grams | C(C)O | C2H6O
solvent | isopropanol | 40.3 grams | C(C)(C)O | C3H8O
product | ethyl silicate methyltriethoxy silane | 90% | [Si](OCC)([O-])([O-])[O-].C[Si](OCC)(OCC)OCC | InChI=1S/C7H18O3Si.C2H5O4Si/c1-5-8-11(4,9-6-2)10-7-3;1-2-6-7(3,4)5/h5-7H2,1-4H3;2H2,1H3/q;-3
